US07812028B2
d) 5-[3-(4-Chloro-phenyl)-5-((1R,2R)-2-hydroxy-cyclohexylcarbamoyl)-pyridin-2-yloxy]-pentanoic Acid
5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide (0.23 g, 0.5 mmol) was dissolved in dichloromethane (15 mL). To the solution was added 2,2,6,6-tetramethyl-1-piperidinyloxy (1 mg), tetrabutylammoniumchlorid (1.5 mg), 5 mL of an aqueous solution of sodium bicarbonate (0.5 M) and potassium carbonate (0.05 M) and N-chlorosuccinimid (0.146 g, 1.1 mmol). The mixture was stirred for 72 h at room temperature and afterwards poured into citric acid (10%, 20 mL) and extracted with dichloromethane. Organic phases were pooled, dried with Na2SO4 and the solvent was evaporated. The residue (aldehyde contaminated with some starting alcohol) was redissolved in tert-butanol (5 mL). To the solution was added 2-methyl-butene solution (2 M in THF, 5 mL), sodium chlorite (210 mg), and sodium dihydrogenphosphate (0.345 g). The mixture was stirred for 72 h at room temperature and afterwards poured into citric acid (10%, 50 mL) and extracted with ethyl acetate. Organic phases were pooled, dried with MgSO4 and the solvent was evaporated. The residue was purified by column chromatography on silica (dichloromethane/methanol gradient) to yield 0.062 g of the title compound as a white foam, MS (ISP) 445.2 (M−H)+.

reactant | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(5-hydroxy-pentyloxy)-nicotinamide | 0.5 mmol, 0.23 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCCCCO | C23H29ClN2O4
reactant | sodium bicarbonate | 0.5 M | C([O-])(O)=O.[Na+]
reactant | potassium carbonate | 0.05 M | C([O-])([O-])=O.[K+].[K+]
reactant | N-chlorosuccinimid | 1.1 mmol, 0.146 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammoniumchlorid | 1.5 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-[3-(4-Chloro-phenyl)-5-((1R,2R)-2-hydroxy-cyclohexylcarbamoyl)-pyridin-2-yloxy]-pentanoic Acid | 0.062 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C1)C(N[C@H]1[C@@H](CCCC1)O)=O)OCCCCC(=O)O | C23H27ClN2O5
